US08492378B2
5-(2,3-dihydro-1-benzofuran-5-yl)-N-(3-fluorobenzyl)-1,3,4-oxadiazol-2-amine
A solution of 2-(2,3-dihydro-1-benzofuran-5-ylcarbonyl)-N-(3-fluorobenzyl)hydrazinecarboxamide (0.50 g, 2.81 mmol), polystyrene resin-immobilized triphenylphosphine (2.15 mmol/g, 0.76 g, 1.64 mmol), triethylamine (0.17 mL, 1.22 mmol) and carbon tetrachloride (0.12 mL, 1.22 mmol) in tetrahydrofuran (5 mL) was stirred at 80° C. for 4 hr. The reaction mixture was filtered, water was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/ethyl acetate to give the title compound (97 mg, yield 51%) as colorless crystals.

reactant | 2-(2,3-dihydro-1-benzofuran-5-ylcarbonyl)-N-(3-fluorobenzyl)hydrazinecarboxamide | 2.81 mmol, 0.50 g | O1CCC2=C1C=CC(=C2)C(=O)NNC(=O)NCC2=CC(=CC=C2)F | C17H16FN3O3
reactant | triethylamine | 1.22 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 1.22 mmol, 0.12 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(2,3-dihydro-1-benzofuran-5-yl)-N-(3-fluorobenzyl)-1,3,4-oxadiazol-2-amine | 97 mg, yield 51% | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)NCC2=CC(=CC=C2)F | C17H14FN3O2
